US06921826B2
A round bottom flask was charged with a magnetic stir bar, di(tert-butyl)2-butyl-1-[2-(phenylthio)ethyl]-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-ylimidodicarbonate (0.50 g, 0.86 mmol), a 4 M solution of hydrochloric acid in dioxane (5 mL), and dichloromethane (5 mL). The reaction was judged to be complete after stirring at ambient temperature for 2 hours. The volatiles were removed under reduced pressure to afford an off white solid. The material was recrystallized from acetonitrile to provide 2-butyl-1-[2-(phenylthio)ethyl]-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride (0.17 g, 1.30 mmol) as fluffy white needles, m.p. 237-238° C. Analysis. Calculated for C22H28N4S.(H2O)1/4.(HCl)2: % C, 57.70; % H, 6.71; % N, 12.23. Found C, 57.62; % H, 6.57; % N, 12.41.

reactant | di(tert-butyl)2-butyl-1-[2-(phenylthio)ethyl]-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-ylimidodicarbonate | 0.86 mmol, 0.50 g | C(C)(C)(C)C1(CCCC=2C3=C(C(=NC12)N(C(=O)[O-])C(=O)[O-])N=C(N3CCSC3=CC=CC=C3)CCCC)C(C)(C)C
reactant | hydrochloric acid | Cl | ClH
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-butyl-1-[2-(phenylthio)ethyl]-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride | 1.30 mmol, 0.17 g | Cl.C(CCC)C=1N(C2=C(C(=NC=3CCCCC23)N)N1)CCSC1=CC=CC=C1 | InChI=1S/C22H28N4S.ClH/c1-2-3-13-19-25-20-21(17-11-7-8-12-18(17)24-22(20)23)26(19)14-15-27-16-9-5-4-6-10-16;/h4-6,9-10H,2-3,7-8,11-15H2,1H3,(H2,23,24);1H
